US04568695
[2-Amino-3-(2-hydroxyethyl)phenyl](4-bromophenyl)methanone
A mixture of 5.3 g (0.016 mole) of 2-amino-3-[(4-bromophenyl)hydroxymethyl]benzeneethanol, 7.1 g (0.08 mole) of manganese dioxide and 250 ml of benzene was heated at reflux for 20 hr. utilizing a Dean-Stark trap for water removal. The mixture was filtered through celite and the filtrate was concentrated under reduced pressure to give 4.8 g of brown gum as residue. The residue was purified by column chromatography on 100 g of silica gel and the product was eluted with 15% ethyl acetate in benzene. The fractions containing the title compound were combined and concentrated under reduced pressure to give a solid residue. The solid was recrystallized from cyclohexane benzene to give 1.6 g (30%) of the titled compound as orange flakes,

reactant | 2-amino-3-[(4-bromophenyl)hydroxymethyl]benzeneethanol | 0.016 mole, 5.3 g | NC1=C(C=CC=C1C(O)C1=CC=C(C=C1)Br)CCO | C15H16BrNO2
catalyst | manganese dioxide | 0.08 mole, 7.1 g | [O-2].[O-2].[Mn+4]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | [2-Amino-3-(2-hydroxyethyl)phenyl](4-bromophenyl)methanone | 4.8 g | NC1=C(C=CC=C1CCO)C(=O)C1=CC=C(C=C1)Br | C15H14BrNO2
